US05117057
To a stirred solution of 1-t-butyl-1-benzoylhydrazine (1.5 g, 0.008M) in methylene chloride at 5° C. was added, simultaneously and separately, trichloroacryloylchloride (1.7 g, 0.009M) and triethylamine (0.9 g, 0.009M). After addition, the reaction was warmed to room temperature and stirred for 3 h. The flask's contents were diluted with 50 ml methylene chloride and washed with water (3×75 ml) and brine solution (1×75 ml). The organic layer was dried over magnesium sulfate and the solvent removed under vacuum to afford N'-t-butyl-N-(1,2,2-trichlorovinyl)carbonyl-N'-benzoylhydrazine as a white solid product.

reactant | 1-t-butyl-1-benzoylhydrazine | 0.008M, 1.5 g | C(C)(C)(C)N(N)C(C1=CC=CC=C1)=O | C11H16N2O
reactant | trichloroacryloylchloride | 0.009M, 1.7 g | ClC(C(=O)Cl)=C(Cl)Cl | C3Cl4O
reactant | triethylamine | 0.009M, 0.9 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N'-t-butyl-N-(1,2,2-trichlorovinyl)carbonyl-N'-benzoylhydrazine | C(C)(C)(C)N(NC(=O)C(=C(Cl)Cl)Cl)C(C1=CC=CC=C1)=O | C14H15Cl3N2O2
